US07429565B2
[2-(Acetyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester
To a solution of (2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester (32 mg, 0.059 mmol) in acetic acid (0.5 mL) was added acetic anhydride (0.5 mL). The solution was stirred at room temperature for 90 minutes when it was quenched by addition of 2 drops of water. The solution was dried in vacuo and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 28 mg of the product (81%) as a clear gel. The NMR data of this compound shows two rotamers in a ratio of 70:30. 1H NMR (300 MHz, CDCl3) δ 0.05 (s, 9H), 1.17-1.27 (m, 2H), 1.30 and 1.31 (t, 6H, J=7 Hz), 1.70-1.79 (m, 2H), 1.76 (s, 3H), 2.00 (s, 3H), 2.18 (s, 3H), 3.40-3.52 (m, 2H), 3.46 (d, 2H, J=7 Hz), 3.77 (s, 3H), 3.79 and 3.93 (s, 3H), 4.07 (pent, 4H, J=7 Hz), 4.27-4.35 (m, 2H), 5.13 (s, 2H), 5.22-5.30 (m, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 27.5 and 28.9 ppm; MS (m/z) 584.1 [M+H]+, 606.2 [M+Na]+.

reactant | (2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester | 0.059 mmol, 32 mg | C(C)OP(OCC)(=O)CCNCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C26H44NO7PSi
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | [2-(Acetyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester | 28 mg, 81% | C(C)OP(OCC)(=O)CCN(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C(C)=O | C28H46NO8PSi
